US05565586
Synthesis of (1-chloro-2-methyl-3-butene-2-yl) acetate
82 g (1.2 mol) of Isoprene and 360 g of glacial acetic acid were mixed. With stirring under ice cooling and with keeping an internal temperature at 10°-15° C., 108 g (1.0 mol) of t-butyl hypochlorite were added dropwise therein. The resulting mixture was continuously stirred as it was until the yellow color of said t-butyl hypochlorite disapperared from the reaction liquid. After water (500 ml) was added into the reaction liquid, it was extracted with ether (300 ml×2). After the organic layer was washed with an aqueous solution saturated with sodium hydrogencarbonate, and thereafter with water and dried, it was concentrated under reduced pressure, thereby obtaining an oily residue. This residue was distilled under reduced pressure, whereby 120 g of the title compound were obtained. (Yield: 43%)

reactant | Isoprene | 1.2 mol, 82 g | C=CC(C)=C | C5H8
reactant | acetic acid | 360 g | C(C)(=O)O | C2H4O2
reactant | t-butyl hypochlorite | 1.0 mol, 108 g | ClOC(C)(C)C | C4H9ClO
solvent | water | 500 ml | O | H2O
product | (1-chloro-2-methyl-3-butene-2-yl) acetate | 120 g, Yield: 43% | C(C)(=O)OC(CCl)(C=C)C | C7H11ClO2
